US04150139
The reaction of 8-chloro-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine with sodium methoxide yielded 8-chloro-3-methoxy-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from aqueous acetone), melting point: 177°-178° C.

reactant | 8-chloro-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | ClC=1C=CC2=C(C=CN3C(C2)=NN=C3S(=O)(=O)C)C1 | C12H10ClN3O2S
reactant | sodium methoxide | C[O-].[Na+]
product | 8-chloro-3-methoxy-11H-s-triazolo[3,4-b][3]benzazepine | ClC=1C=CC2=C(C=CN3C(C2)=NN=C3OC)C1 | C12H10ClN3O
